US08232410B2
(c) Synthesis of 7-acetylamino-5-(methoxycarbonyl)amino-2-(4-bromophenyl)-1H-benzo[d]imidazole
To a solution of 7-amino-5-(methoxycarbonyl)amino-2-(4-bromophenyl)-1H-benzo[d]-imidazole (60 mg, 0.17 mmol) in dichloromethane (5 mL) was added acetic anhydride (18 mg, 0.17 mmol) and the solution was stirred at room temperature for 3 h. The reaction mixture was concentrated in vacuo and purified by column chromatography on silica gel using hexane/EtOAc (4/1) as the eluant to afford the desired product (55 mg, 80%) as a pale yellow powder: 1H-NMR (300 MHz, CD3OD) δ 2.24 (s, 3H), 3.74 (s, 3H), 7.65 (m, 3H), 7.67 (bs, 1H), 7.90 (m, 2H); ESI MS m/z 403.0 [M+H]+.

reactant | 7-amino-5-(methoxycarbonyl)amino-2-(4-bromophenyl)-1H-benzo[d]-imidazole | 0.17 mmol, 60 mg | NC1=CC(=CC2=C1NC(=N2)C2=CC=C(C=C2)Br)NC(=O)OC | C15H13BrN4O2
reactant | acetic anhydride | 0.17 mmol, 18 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 7-acetylamino-5-(methoxycarbonyl)amino-2-(4-bromophenyl)-1H-benzo[d]imidazole | 55 mg, 80% | C(C)(=O)NC1=CC(=CC2=C1NC(=N2)C2=CC=C(C=C2)Br)NC(=O)OC | C17H15BrN4O3
